US06310211B1
8-Hydroxy-N-[(4-nitrophenyl)methyl]-7-quinolinecarboxamide (Formula C-3 wherein R1 is —H, R2 is —H, and X is —NO2) Refer to Chart C
8-Hydroxyquinoline-7-carboxylic acid (0.51 g) of Preparation 1 is added to 20 mL DMF. 4-Nitrobenzylamine hydrochloride (0.53 g) followed by diisopropylethylamine (0.49 mL) is then added. After 10 minutes, all solids go into solution. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.54 g) and 1-hydroxybenzotriazole monohydrate (0.38 g) are added and the reaction stirred at room temperature overnight. The reaction is poured into 75 mL H2O. The resulting solid is filtered and dried to give the title product (0.53 g).

reactant | 8-Hydroxyquinoline-7-carboxylic acid | 0.51 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | 4-Nitrobenzylamine hydrochloride | 0.53 g | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | diisopropylethylamine | 0.49 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.54 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.38 g | O.ON1N=NC2=C1C=CC=C2
solvent | H2O | 75 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 8-Hydroxy-N-[(4-nitrophenyl)methyl]-7-quinolinecarboxamide | 0.53 g | OC=1C(=CC=C2C=CC=NC12)C(=O)NCC1=CC=C(C=C1)[N+](=O)[O-] | C17H13N3O4
